US05616586
To a solution of 2-hydroxymethyltetrahydroquinoline (7.86 g, 48.16 mmol) in dichloromethane (80 mL) containing triethylamine (10 mL, 72.23 mmol) was added trimethylsilyl chloride (6.7 mL, 52.97 mmol) at 0° C. The mixture was stirred for 10 min at 0° C. followed by addition of triethylamine (10 mL) and ethyl chlorooxalate (5.9 mL, 52.97 mmol). The mixture was stirred for 30 min at 0° C. and water was added. The organic layer was separated, washed with water, dried over magnesium sulfate, and concentrated to give 15.6 g of N-ethoxalyl-2-trimethylsilyloxymethyltetrahydroquinoline (106%): 1H NMR (270 MHz, CDCl3) δ6.97~7.16 (m, 4H), 4.68 (m, 1H), 4.09 (q, 2H, J=7 Hz), 3.72 (m, 1H), 3.54 (m, 1H), 2.65 (m, 2H), 2.37 (m, 1H), 1.69 (m, 1H), 1.06 (t, 3H, J=7 Hz), 0.03 (s, 9H).

reactant | 2-hydroxymethyltetrahydroquinoline | 48.16 mmol, 7.86 g | OCC1NC2=CC=CC=C2CC1 | C10H13NO
reactant | triethylamine | 72.23 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 52.97 mmol, 6.7 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorooxalate | 52.97 mmol, 5.9 mL | C(C(=O)OCC)(=O)Cl | C4H5ClO3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-ethoxalyl-2-trimethylsilyloxymethyltetrahydroquinoline | 15.6 g, 106% | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)CO[Si](C)(C)C | C17H27NO4Si
